US07087750B2
N-Benzenesulfonyl-5-(4-methylpiperazin-1-yl)-indole
5-(4-Methylpiperazin-1-yl)-indole (215 mg, 1 mmol), benzenesulfonylchloride (265 mg, 1.5 mmol) and Aliquat 336 (10 mg) were dissolved in DCM (10 mL). Aqueous NaOH (20%, 2 mL) was added and the mixture was stirred vigorously for 6 h. The organic layer was separated, dried and concentrated to give the crude as an oil that was purified on a silica column using DCM and MeOH as eluent. The pure fractions were concentrated to give an oil (260 mg, 0.66 mmol) 1H NMR (CDCl3) δ 2.35 (3 H, s), 2.59 (4 H, t, J=5), 3.18 (4 H, t, J=5), 6.57 (1 H, d, J=4), 6.98–7.03 (2 H, m), 7.38–7.54 (4 H, m), 7.82–7.90 (3 H, m); MS (posES-FIA) 355.1345 M+; Purity (HPLC chromsil C18) >98%.

reactant | 5-(4-Methylpiperazin-1-yl)-indole | 1 mmol, 215 mg | CN1CCN(CC1)C=1C=C2C=CNC2=CC1 | C13H17N3
reactant | benzenesulfonylchloride | 1.5 mmol, 265 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | 2 mL | [OH-].[Na+]
catalyst | Aliquat 336 | 10 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Benzenesulfonyl-5-(4-methylpiperazin-1-yl)-indole | 0.66 mmol, 260 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)N1CCN(CC1)C | C19H21N3O2S
